US06506779B1
1-[4-(Methylsulfonyl)Phenyl]-5-[4-(Phenylethynyl)Phenyl]-3-Trifluoromethyl-1H-Pyrazole
To a stirred solution of 1-[4-(methylsulfonyl)phenyl]-5-(4-bromophenyl)-3-trifluoromethyl-1H-pyrazole (445 mg; 1 mmol) and phenylacetylene (102 mg; 1 mmol) in pyrrolidine (2 mL) was added tetrakis(triphenylphosphine)palladium (35 mg) under a nitrogen atmosphere, and the mixture was heated at 80° C. for 1 hour. After cooling, the volatiles were removed by evaporation. The residue was purified by flash chromatography (SiO2) eluting with ethyl acetate/hexane (1:3) to give the title compound (0.4 g, 86% yield).

reactant | 1-[4-(methylsulfonyl)phenyl]-5-(4-bromophenyl)-3-trifluoromethyl-1H-pyrazole | 1 mmol, 445 mg | CS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)Br)C(F)(F)F | C17H12BrF3N2O2S
reactant | phenylacetylene | 1 mmol, 102 mg | C1(=CC=CC=C1)C#C | C8H6
solvent | pyrrolidine | 2 mL | N1CCCC1 | C4H9N
catalyst | tetrakis(triphenylphosphine)palladium | 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4-(Methylsulfonyl)Phenyl]-5-[4-(Phenylethynyl)Phenyl]-3-Trifluoromethyl-1H-Pyrazole | 0.4 g, 86% yield | CS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C#CC1=CC=CC=C1)C(F)(F)F | C25H17F3N2O2S
